US06225302B1
2-Chlorobenzenesulfonic Acid 3-[(1-Acetimidoylpiperidin4-yl)Methoxy]-5-Methylphenyl Ester Hydrochloride
Diethyl azodicarboxylate (349 mg, 2.0 mmol) was added to a solution of 2-chlorobenzenesulfonic acid 3-hydroxy-5-methylphenyl ester (600 mg, 2.0 mmol), as prepared in the preceding step, N-tert-butoxylcarbonyl4-piperidinemethanol (430 mg, 2.0 mmol), as prepared in step (b), and triphenylphosphine (525 mg, 2.0 mmol) in tetrahydrofuran (15 mL) at 0° C. The reaction mixture was stirred at 0° C. for 2 h and at room temperature for 3 h. The reaction mixture was quenched with water (50 mL) and was extracted with ethyl acetate (3×50 mL). The organic phase was washed with saturated NaHCO3 (2×50 mL), brine (2×50 mL) and dried over Na2SO4. The solvent removed in vacuo and the residue was purified by flash column chromatography (2:1 ethyl acetate/hexane) to give the title compound as a colorless syrup (895 mg, 90%). 1H-NMR (300 MHz, CDCl3) δ 1.24 (m, 2 H), 1.47 (s, 9 H), 1.76 (d, 2 H, J=6.6 Hz), 1.89 (m, 1 H), 2.24 (s, 3 H), 2.72 (t, 2 H, J=2.4 Hz), 3.68 (d, 2 H, J=3.2 Hz), 4.13 (m, 2 H), 6.47 (t, 1 H, J=2.2 Hz), 6.52 (d, 1 H, J=0.7 Hz), 6.58 (d, 1 H, J=0.8 Hz), 7.38 (dd, 1 H, J=0.6, 0.8 Hz), 7.61 (m, 2 H), and 7.97 (dd, 1 H, J=0.8, 4.0 Hz).

reactant | Diethyl azodicarboxylate | 2.0 mmol, 349 mg | N(=NC(=O)OCC)C(=O)OCC | C6H10N2O4
reactant | 2-chlorobenzenesulfonic acid 3-hydroxy-5-methylphenyl ester | 2.0 mmol, 600 mg | OC=1C=C(C=C(C1)C)OS(=O)(=O)C1=C(C=CC=C1)Cl | C13H11ClO4S
reactant | N-tert-butoxylcarbonyl4-piperidinemethanol | 2.0 mmol, 430 mg | O(C(C)(C)C)C(=O)N1CCC(CC1)CO | C11H21NO3
reactant | triphenylphosphine | 2.0 mmol, 525 mg | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15P
reactant | tetrahydrofuran | 15 mL | O1CCCC1 | C4H8O
product | 2-Chlorobenzenesulfonic Acid 3-[(1-Acetimidoylpiperidin4-yl)Methoxy]-5-Methylphenyl Ester Hydrochloride | 895 mg, 90% | Cl.C(C)(=N)N1CCC(CC1)COC=1C=C(C=C(C1)C)OS(=O)(=O)C1=C(C=CC=C1)Cl | InChI=1S/C21H25ClN2O4S.ClH/c1-15-11-18(27-14-17-7-9-24(10-8-17)16(2)23)13-19(12-15)28-29(25,26)21-6-4-3-5-20(21)22;/h3-6,11-13,17,23H,7-10,14H2,1-2H3;1H
